US07560558B2
Compound 1: 4-(2-Benzylphenoxy)-6,7-dimethoxyquinoline
4-Chloro-6,7-dimethoxyquinoline (230 mg) and 2-benzylphenol (254 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 180° C. overnight. The reaction solution was cooled to room temperature, and water was added thereto. The mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was then removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using ethyl acetate-hexane to give the title compound (40 mg, yield 10%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 230 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-benzylphenol | 254 mg | C(C1=CC=CC=C1)C1=C(C=CC=C1)O | C13H12O
reactant | water | O | H2O
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(2-Benzylphenoxy)-6,7-dimethoxyquinoline | 40 mg, yield 10% | C(C1=CC=CC=C1)C1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC=C1 | C24H21NO3
